US06723745B2
4-(5-Phenylpent-1-ynyl)thiophen-2-carboxaldehyde
5-Phenylpent-1-yne (18.1 g, 126 mmol) was dissolved in tetrahydrofuran (100 ml), and then 4-bromothiophen-2-carboxaldehyde (18.7 g, 98 mmol) in tetrahydrofuran (200 ml), triethylamine (150 ml, 1.07 mmol), copper(I) iodide (962 mg, 5.05 mmol), and dichlorobis(triphenylphosphine)palladium (3.54 g, 5.04 mmol) were added thereto, and the mixture was stirred at 50° C. for 4 hours under a nitrogen atmosphere. After the reaction solution was filtered, the filtrate was evaporated under reduced pressure. To the residue was added ether, and the solution was washed with water and a saturated aqueous sodium chloride solution, respectively. After the ether layer was dried over anhydrous sodium sulfate, the solvent was evaporated in vacuo. The residue was purified by chromatography on a silica gel column (elution solvent; hexane:ethyl acetate=100:1-10:1) to afford the title compound (19.4 g, 78% yield).

reactant | 5-Phenylpent-1-yne | 126 mmol, 18.1 g | C1(=CC=CC=C1)CCCC#C | C11H12
reactant | 4-bromothiophen-2-carboxaldehyde | 98 mmol, 18.7 g | BrC=1C=C(SC1)C=O | C5H3BrOS
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
catalyst | copper(I) iodide | 5.05 mmol, 962 mg | [Cu]I
catalyst | dichlorobis(triphenylphosphine)palladium | 5.04 mmol, 3.54 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | triethylamine | 1.07 mmol, 150 ml | C(C)N(CC)CC | C6H15N
product | 4-(5-Phenylpent-1-ynyl)thiophen-2-carboxaldehyde | 19.4 g, 78% yield | C1(=CC=CC=C1)CCCC#CC=1C=C(SC1)C=O | C16H14OS
